US07098226B2
Next, 2-(1-adamantyl)ethylamine hydrochloride (2.0 g, 9.3 mmol) was distributed with chloroform (30 ml) and a 1 N aqueous sodium hydroxide solution (40 ml), and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2-(1-adamantyl)ethylamine. Methanol (15 ml) and triethylamine (2.6 ml, 19 mmol) were added to 2-(1-adamantyl)ethylamine, and the mixture was stirred at room temperature. Then, a solution of 2-butynal (0.80 g, 12 mmol) obtained by the above-mentioned reaction in methanol (10 ml) was added to the mixture, and after three hours, sodium borohydride (1.9 g, 50 mmol) was added thereto under ice-cold water-cooling. After one hour, water (40 ml) was added to the reaction mixture, and the whole was extracted with chloroform (60 ml). The organic layer was washed with saturated brine (40 ml) and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 0.48 g (22%) of the titled compound as a brown oily matter.

reactant | 2-(1-adamantyl)ethylamine hydrochloride | 9.3 mmol, 2.0 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-adamantyl)ethylamine | C12(CC3CC(CC(C1)C3)C2)CCN | C12H21N
